US09375000B2
Step 1: Synthesis of methyl 6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)-pyrrolidin-1-yl}-4-(trifluoromethyl)nicotinate
Methyl 6-chloro-4-(trifluoromethyl)nicotinate (2.39 g), 3-[3,5-bis(trifluoromethyl)-phenyl]-3-(tri-fluoromethyl)pyrrolidine (2.98 g) and potassium carbonate (1.8 g) were suspended in dimethylformamide (50 ml). The reaction mixture was heated for 8 hours at 80° C. Water and ethyl acetate were added and the extraction was carried out. The extract was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The target compound (3.07 g) was obtained by purification with silica gel column chromatography.

reactant | Methyl 6-chloro-4-(trifluoromethyl)nicotinate | 2.39 g | ClC1=NC=C(C(=O)OC)C(=C1)C(F)(F)F | C8H5ClF3NO2
reactant | 3-[3,5-bis(trifluoromethyl)-phenyl]-3-(tri-fluoromethyl)pyrrolidine | 2.98 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CNCC1)C(F)(F)F)(F)F | C13H10F9N
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)-pyrrolidin-1-yl}-4-(trifluoromethyl)nicotinate | 3.07 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=NC=C(C(=O)OC)C(=C1)C(F)(F)F)C(F)(F)F)(F)F | C21H14F12N2O2
